US07851463B2
4-Isopropyl-N-[4-((S)-1-ethyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide
0.3 g of 4-Isopropyl-N—((S)-4-pyrrolidin-3-yl-phenyl)-benzenesulfonamide (0.87 mmol) were dissolved in 20 ml dichloromethane. After addition of 0.07 ml of acetic acid, 0.073 ml of acetaldehyde (1.31 mmol) and 0.277 g of sodium triacetoxyborohydride (1.31 mmol), the reaction mixture was stirred at room temperature for 30 minutes. The solvent was evaporated, the residue dissolved in water and the pH adjusted to pH 8-9 with aqueous sodium hydroxide solution. The aqueous phase was extracted three times with diethyl ether, the combined organic phases dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure. The crude product was purified via silica gel chromatography (chromabond column) with dichloromethane, dichloromethane/methanol 4% as eluent to yield 64 mg of the title compound.

reactant | 4-Isopropyl-N—((S)-4-pyrrolidin-3-yl-phenyl)-benzenesulfonamide | 0.87 mmol, 0.3 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CNCC1 | C19H24N2O2S
reactant | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 1.31 mmol, 0.073 ml | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.31 mmol, 0.277 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Isopropyl-N-[4-((S)-1-ethyl-pyrrolidin-3-yl)-phenyl]-benzenesulfonamide | 64 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)[C@H]1CN(CC1)CC | C21H28N2O2S
